US07858621B2
To a cooled (−78° C.) solution of 2-ethyl-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide (113 mg, 0.43 mmol) in THF (4 mL) was added lithium aluminum hydride (1M LAH in THF, 0.22 mL). The mixture was stirred for 15 minutes, and then warmed to −10° C. After additional stirring for 30 minutes, the mixture was quenched with saturated potassium hydrogen sulfate solution (1 mL) and extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give 2-ethyl-6-trifluoromethyl-pyridine-3-carbaldehyde quantitatively as oil. The crude product was used directly in the following reaction.

reactant | 2-ethyl-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide | 0.43 mmol, 113 mg | C(C)C1=C(C(=O)N(C)OC)C=CC(=N1)C(F)(F)F | C11H13F3N2O2
reactant | lithium aluminum hydride | 1M, 0.22 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-ethyl-6-trifluoromethyl-pyridine-3-carbaldehyde | C(C)C1=NC(=CC=C1C=O)C(F)(F)F | C9H8F3NO
